US08703758B2
K) N-[2-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)-1-methylethyl]acetamide
A solution of 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-amine (172 mg) and acetic anhydride (0.24 mL) in pyridine (4 mL) was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the obtained residue was purified by silica gel chromatography (NH, hexane/ethyl acetate). The obtained residue was recrystallized from ethyl acetate and hexane to give the title compound (95 mg) as white crystals.

reactant | 1-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)propan-2-amine | 172 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)N)C=C1 | C20H28N2O3
reactant | acetic anhydride | 0.24 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)-1-methylethyl]acetamide | 95 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)NC(C)=O)C=C1 | C22H30N2O4
